US08420828B2
1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one
The compound was synthesized starting from KOH (15 eq in water), diazald (8 eq), ethylene glycol/Et2O (1/2 v/v, 30 ml), 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one (0.500 g, 1.28 mmol, 1 eq) and MeOH (10 ml), the product was purified by prep TLC using 4% methanol in chloroform as eluent; yield: 0.100 g (19.34%); MS m/z: 405.1 [M+H]+; 1H-NMR: (400 MHz, DMSO-D6) δ: 12.37 (s, 1H), 8.13 (d, 1H), 7.68-7.64 (m, 1H), 7.50-7.48 (m, 1H), 7.38 (m, 1H), 7.25-7.22 (m, 1H), 7.08-7.06 (m, 2H), 6.82-6.80 (m, 2H), 5.68 (d, 1H), 3.93 (s, 3H), 3.66-3.63 (m, 4H), 3.17-3.01 (m, 4H), 1.66 (s, 3H); HPLC (METHOD [A]): rt 9.33 min (96.37%)

reactant | KOH | 15 eq | [OH-].[K+]
reactant | diazald | 8 eq | CC1=CC=C(C=C1)S(=O)(=O)N(C)N=O | C8H10N2O3S
reactant | ethylene glycol Et2O | 30 ml | C(CO)O.CCOCC
reactant | 1-(1H-Benzo[d]imidazol-6-yl)-3-hydroxy-4-methyl-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | 1.28 mmol, 0.500 g, 1 eq | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)N2CCOCC2)C)O)=O | C22H22N4O3
solvent | MeOH | 10 ml | CO | CH4O
product | 1-(1H-Benzo[d]imidazol-6-yl)-3-methoxy-4-methyl-5-(4-morpholinophenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=C(C=C2)N2C(C(=C(C2C2=CC=C(C=C2)N2CCOCC2)C)OC)=O | C23H24N4O3
